US07250429B2
6-Hydroxymethyl-N-neopentylthiazolo[3,2-a]benzimidazole-2-carboxamide
1-Hydroxybenzotriazole (10.1 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (28.8 g) were added to a DMF (500 ml) suspension of 6-hydroxymethylthiazolo[3,2-a]benzimidazole-2-carboxylic acid (12.4 g), and the reaction mixture was stirred at room temperature for 2 hours. Neopentylamine (17.7 ml) was added to the reaction mixture, and the resulting reaction mixture was stirred at the same temperature for 2 hours. After completion of the reaction, the reaction mixture was poured into 0.5 M sodium hydroxide aqueous solution (2 l). The insoluble matter was collected by filtration, washed with water and then with a mixed solvent of hexane and diethyl ether (mixing ratio; 3:1) and then dried by heating under a reduced pressure to obtain the title compound (12.0 g).

reactant | 1-Hydroxybenzotriazole | 10.1 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 28.8 g | Cl.CN(CCCN=C=NCC)C
reactant | 6-hydroxymethylthiazolo[3,2-a]benzimidazole-2-carboxylic acid | 12.4 g | OCC=1C=CC2=C(N3C(=N2)SC(=C3)C(=O)O)C1 | C11H8N2O3S
reactant | Neopentylamine | 17.7 ml | C(C(C)(C)C)N | C5H13N
reactant | sodium hydroxide | 0.5 M, 2 l | [OH-].[Na+]
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 6-Hydroxymethyl-N-neopentylthiazolo[3,2-a]benzimidazole-2-carboxamide | 12.0 g | OCC=1C=CC2=C(N3C(=N2)SC(=C3)C(=O)NCC(C)(C)C)C1 | C16H19N3O2S
